### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Diam): add basic (e)diam facts

### PR DESCRIPTION
**Pull request by bsubercaseaux**
Add converses of some `diam` and `ediam` lemmas.
These should improve the experience of working with diam/ediam by providing more direct relations between the terms `G.ediam = \top`, `G.diam = 0`, `G.Preconnected`, etc.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 1]
```diff
@@ -1,5 +1,5 @@
 /-
-Copyright (c) 2024 Rida Hamadani. All rights reserved.
+    Copyright (c) 2024 Rida Hamadani. All rights reserved.
```
Comment (bsubercaseaux) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:2]: sorry, this was a mistake, trying to fix it.

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 2]
```diff
@@ -106,6 +112,14 @@ lemma exists_edist_eq_ediam_of_finite [Nonempty α] [Finite α] :
     ∃ u v, G.edist u v = G.ediam :=
   Prod.exists'.mp <| ediam_def ▸ exists_eq_ciSup_of_finite
 
+lemma ediam_ne_top_of_preconnected [Nonempty α] [Finite α] (h : G.Preconnected) : G.ediam ≠ ⊤ := by
+  by_contra h_top
+  have ⟨u, v, _⟩ := G.exists_edist_eq_ediam_of_finite
+  simp_all only [edist_ne_top_iff_reachable.mpr (h u v)]
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:118]:
```suggestion
lemma ediam_ne_top_of_preconnected [Nonempty α] [Finite α] (h : G.Preconnected) : G.ediam ≠ ⊤ :=
  have ⟨u, v, huv⟩ := G.exists_edist_eq_ediam_of_finite
  huv ▸ edist_ne_top_iff_reachable.mpr (h u v)
```

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 3]
```diff
@@ -106,6 +112,14 @@ lemma exists_edist_eq_ediam_of_finite [Nonempty α] [Finite α] :
...
+
+lemma not_preconn_of_ediam_eq_top [Nonempty α] [Finite α] (h : G.ediam = ⊤) : ¬G.Preconnected :=
+  (mt G.ediam_ne_top_of_preconnected) (not_ne_iff.mpr h)
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:121]:
```suggestion
lemma not_preconnected_of_ediam_eq_top [Nonempty α] [Finite α] (h : G.ediam = ⊤) :
    ¬G.Preconnected :=
  mt G.ediam_ne_top_of_preconnected <| not_ne_iff.mpr h
```

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 4]
```diff
@@ -174,6 +188,12 @@ lemma exists_dist_eq_diam [Nonempty α] :
     use u, v
     rw [diam, dist, congrArg ENat.toNat huv]
 
+lemma pos_diam_of_ne_top_and_nt (h : G.ediam ≠ ⊤) [Nontrivial α] : 0 < G.diam  := by
+  obtain ⟨u, v, uv_ne⟩ := exists_pair_ne ‹_›
+  have h_conn : G.Connected := connected_of_ediam_ne_top_and_nonempty h
+  calc 0 < G.dist u v := by apply Connected.pos_dist_of_ne h_conn uv_ne
+          _ ≤ G.diam := by apply dist_le_diam h
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:195]:
```suggestion
lemma diam_pos_of_ediam_ne_top [Nontrivial α] (h : G.ediam ≠ ⊤) : 0 < G.diam  :=
  have ⟨_, _, hne⟩ := exists_pair_ne ‹_›
  lt_of_lt_of_le ((connected_of_ediam_ne_top h).pos_dist_of_ne hne) <| dist_le_diam h
```
Instances go before assumptions.

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 5]
```diff
@@ -197,6 +217,19 @@ lemma diam_eq_zero : G.diam = 0 ↔ G.ediam = ⊤ ∨ Subsingleton α := by
...
+  simp [diam_eq_zero]
+  tauto
+
+lemma not_connected_of_diam_zero [Fintype α] [Nontrivial α] (h : G.diam = 0) : ¬ G.Connected := by
+  rw [connected_iff]
+  rw [diam_eq_zero] at h
+  simp
+  rcases h with t | s
+  · exact not_preconn_of_ediam_eq_top t
+  · absurd s; exact not_subsingleton α
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:231]: This part has non-terminal `simp`s, can you deal with it by using `simp?` please? Also I think for the last `rcases`, `cases` is more suitable.

**Review by Rida-Hamadani — COMMENTED** [review]
Thank you! 

The rest of the file uses `*_ne_zero` instead of `*_pos`, these are practically equivalent, but for the sake of having a consistent file, can you change the lemmas that concern positivity so that they are of the form `*_ne_zero`?

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean (hunk 5 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean]: updated this! :)

**Comment by bsubercaseaux** [comment]
> Thank you!
> 
> The rest of the file uses `*_ne_zero` instead of `*_pos`, these are practically equivalent, but for the sake of having a consistent file, can you change the lemmas that concern positivity so that they are of the form `*_ne_zero`?

Just saw this, sorry about that. I agree it's probably better to keep consistency, so I changed to ne_zero.

**Review by b-mehta — COMMENTED** [review]
These are generally quite nice, thank you! I have a vague hesitation about a couple of the new ones, since they're trivially provable from earlier results... But this file had a few of those already, so you are making it locally consistent!

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 6]
```diff
@@ -97,6 +97,12 @@ lemma ediam_eq_top_of_not_preconnected (h : ¬G.Preconnected) : G.ediam = ⊤ :=
     rw [connected_iff]
     tauto
 
+lemma preconnected_of_ediam_ne_top (h : G.ediam ≠ ⊤ ) : G.Preconnected := by
+   apply Classical.not_not.mp (mt G.ediam_eq_top_of_not_preconnected h)
```
[the remark this answers is not in the document]
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean]: Done!

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 7]
```diff
@@ -97,6 +97,12 @@ lemma ediam_eq_top_of_not_preconnected (h : ¬G.Preconnected) : G.ediam = ⊤ :=
...
+
+lemma connected_of_ediam_ne_top_and_nonempty [Nonempty α] (h : G.ediam ≠ ⊤) : G.Connected := by
+  rw [connected_iff]; exact ⟨preconnected_of_ediam_ne_top h, by assumption⟩
```
[the remark this answers is not in the document]
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean]: Done!

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean (hunk 3 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean]: Done!

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean (hunk 4 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean]: done!

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 8]
```diff
@@ -106,6 +112,14 @@ lemma exists_edist_eq_ediam_of_finite [Nonempty α] [Finite α] :
     ∃ u v, G.edist u v = G.ediam :=
   Prod.exists'.mp <| ediam_def ▸ exists_eq_ciSup_of_finite
 
+lemma ediam_ne_top_of_preconnected [Nonempty α] [Finite α] (h : G.Preconnected) : G.ediam ≠ ⊤ :=
+  have ⟨u, v, huv⟩ := G.exists_edist_eq_ediam_of_finite
+  huv ▸ edist_ne_top_iff_reachable.mpr (h u v)
+
+lemma not_preconnected_of_ediam_eq_top [Nonempty α] [Finite α] (h : G.ediam = ⊤) :
+    ¬G.Preconnected :=
+  mt G.ediam_ne_top_of_preconnected <| not_ne_iff.mpr h
```
[the remark this answers is not in the document]
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean]: Added this! and based on this suggestion I generally simplified the PR. Thanks for the careful review!

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 9]
```diff
@@ -174,6 +188,11 @@ lemma exists_dist_eq_diam [Nonempty α] :
     use u, v
     rw [diam, dist, congrArg ENat.toNat huv]
 
+lemma diam_ne_zero_of_ediam_ne_top [Nontrivial α] (h : G.ediam ≠ ⊤) : G.diam ≠ 0 :=
```
[the remark this answers is not in the document]
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean:193]: Addressed this!

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 10]
```diff
@@ -197,6 +216,19 @@ lemma diam_eq_zero : G.diam = 0 ↔ G.ediam = ⊤ ∨ Subsingleton α := by
 lemma diam_eq_one [Nontrivial α] : G.diam = 1 ↔ G = ⊤ := by
   rw [diam, ENat.toNat_eq_iff one_ne_zero, Nat.cast_one, ediam_eq_one]
 
+lemma diam_ne_zero_iff_ne_top_and_nt : G.diam ≠ 0  ↔ G.ediam ≠ ⊤ ∧ Nontrivial α := by
```
[the remark this answers is not in the document]
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean]: Indeed, removed this!

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 11]
```diff
@@ -174,6 +188,11 @@ lemma exists_dist_eq_diam [Nonempty α] :
     use u, v
     rw [diam, dist, congrArg ENat.toNat huv]
 
+lemma diam_ne_zero_of_ediam_ne_top [Nontrivial α] (h : G.ediam ≠ ⊤) : G.diam ≠ 0 :=
+  have ⟨_, _, hne⟩ := exists_pair_ne ‹_›
+  pos_iff_ne_zero.mp
+  <| lt_of_lt_of_le ((connected_of_ediam_ne_top h).pos_dist_of_ne hne) <| dist_le_diam h
```
[the remark this answers is not in the document]
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean]: Done!

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean (hunk 2 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean]: addressed!

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 12]
```diff
@@ -216,18 +218,18 @@ lemma diam_eq_zero : G.diam = 0 ↔ G.ediam = ⊤ ∨ Subsingleton α := by
...
+lemma diam_zero_iff_ediam_top [Nontrivial α] : G.diam = 0 ↔ G.ediam = ⊤ := by
+  rw [← not_iff_not]
+  exact ⟨ediam_ne_top_of_diam_ne_zero, diam_ne_zero_of_ediam_ne_top⟩
+
+/-
+A finite and nontrivial graph is connected if and only if its diameter is not zero.
+See also `connected_iff_ediam_ne_top` for the extended diameter version.
+-/
+lemma connected_iff_diam_ne_zero [Fintype α] [Nontrivial α] :
+  G.Connected ↔ G.diam ≠ 0 := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:231]:
```suggestion
    G.Connected ↔ G.diam ≠ 0 := by
```

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 13]
```diff
@@ -106,6 +112,16 @@ lemma exists_edist_eq_ediam_of_finite [Nonempty α] [Finite α] :
     ∃ u v, G.edist u v = G.ediam :=
   Prod.exists'.mp <| ediam_def ▸ exists_eq_ciSup_of_finite
 
+/- In a finite graph with nontrivial vertex set, the graph is connected
+if and only if the extended diameter is not `⊤`.
+See `connected_of_ediam_ne_top` for one of the implications without
+the finiteness assumptions
+-/
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:119]:
```suggestion
/-- In a finite graph with nontrivial vertex set, the graph is connected
if and only if the extended diameter is not `⊤`.
See `connected_of_ediam_ne_top` for one of the implications without
the finiteness assumptions. -/
```

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 14]
```diff
@@ -197,6 +218,19 @@ lemma diam_eq_zero : G.diam = 0 ↔ G.ediam = ⊤ ∨ Subsingleton α := by
 lemma diam_eq_one [Nontrivial α] : G.diam = 1 ↔ G = ⊤ := by
   rw [diam, ENat.toNat_eq_iff one_ne_zero, Nat.cast_one, ediam_eq_one]
 
+@[simp]
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:221]:
```suggestion
```
Not sure that this should be simp - I don't think one side is clearly simpler than the other

**Review by b-mehta — COMMENTED** [review]
Looks great!

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean (hunk 14 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean:221]: ah, and making it not simp will make the CI pass (I think!)

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean (hunk 12 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean:231]: decided to inline this, sorry for the formatting silly mistake

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean (hunk 14 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean:221]: you're right, sorry I misunderstood the intended semantics of @[simp].

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean (hunk 13 above)
Comment (bsubercaseaux) [reply Mathlib/Combinatorics/SimpleGraph/Diam.lean:119]: Fixed this! and also in the other docstring.

File: Mathlib/Combinatorics/SimpleGraph/Diam.lean [hunk 15]
```diff
@@ -197,6 +217,15 @@ lemma diam_eq_zero : G.diam = 0 ↔ G.ediam = ⊤ ∨ Subsingleton α := by
 lemma diam_eq_one [Nontrivial α] : G.diam = 1 ↔ G = ⊤ := by
   rw [diam, ENat.toNat_eq_iff one_ne_zero, Nat.cast_one, ediam_eq_one]
 
+lemma diam_zero_iff_ediam_top [Nontrivial α] : G.diam = 0 ↔ G.ediam = ⊤ := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Diam.lean:220]:
```suggestion
lemma diam_eq_zero_iff_ediam_top [Nontrivial α] : G.diam = 0 ↔ G.ediam = ⊤ := by
```

**Review by b-mehta — COMMENTED** [review]
bors d+
